** sch_path: /home/me/Project/sky130_lzc16/xschem/lzc8.sch
.subckt lzc8 A7 A6 V A5 A4 P2 A3 A2 P1 A1 A0 P0
*.PININFO A7:I A6:I A5:I A4:I A3:I A2:I A1:I A0:I V:O P2:O P1:O P0:O
x1 A7 net1 A6 net2 A5 A4 net5 lzc4
x2 A3 net3 A2 net4 A1 A0 net6 lzc4
x3 net1 net3 VGND VNB VPB VPWR V sky130_fd_sc_hd__or2_1
x4 net1 VGND VNB VPB VPWR P2 sky130_fd_sc_hd__inv_1
x5 net2 net4 P2 VGND VNB VPB VPWR P1 sky130_fd_sc_hd__mux2_1
x6 net5 net6 P2 VGND VNB VPB VPWR P0 sky130_fd_sc_hd__mux2_1
.ends

* expanding   symbol:  lzc4.sym # of pins=7
** sym_path: /home/me/Project/sky130_lzc16/xschem/lzc4.sym
** sch_path: /home/me/Project/sky130_lzc16/xschem/lzc4.sch
.subckt lzc4 A3 V A2 P1 A1 A0 P0
*.PININFO A3:I A2:I A1:I A0:I V:O P1:O P0:O
x1 A3 net1 A2 net3 lzc2
x2 A1 net2 A0 net4 lzc2
x3 net1 net2 VGND VNB VPB VPWR V sky130_fd_sc_hd__or2_1
x4 net1 VGND VNB VPB VPWR P1 sky130_fd_sc_hd__inv_1
x5 net3 net4 P1 VGND VNB VPB VPWR P0 sky130_fd_sc_hd__mux2_1
.ends


* expanding   symbol:  lzc2.sym # of pins=4
** sym_path: /home/me/Project/sky130_lzc16/xschem/lzc2.sym
** sch_path: /home/me/Project/sky130_lzc16/xschem/lzc2.sch
.subckt lzc2 HI V LO P
*.PININFO HI:I LO:I V:O P:O
x1 HI LO VGND VNB VPB VPWR V sky130_fd_sc_hd__or2_1
x2 HI GND GND VDD VDD P sky130_fd_sc_hd__inv_1
.ends

